US07019096B2
Synthesis of 4-vinylbenzyl thiocyanate
Ammonium thiocyanate (2 equiv., 43 g, 0.50 mol) was dissolved in acetone (200 ml) and 4-vinylbenzyl chloride (43 g, 0.25 mol) was added to the reaction flask. The mixture was stirred at room temperature overnight. The reaction mixture was filtered and acetone removed under reduced pressure. The resulting product was dissolved in hexane, filtered, and the solvent removed under reduced pressure. The monomer was isolated as a red-orange, slightly viscous liquid (26 g, yield 52%). 1H NMR (CDCl3) δ (ppm) 4.13 (s, 2H), 5.29 (d, 1H), 5.76 (d, 1H), 6.67 (dd, 1H), 7.31 (m, 4H).

reactant | Ammonium thiocyanate | 0.50 mol, 43 g, 2 equiv. | [S-]C#N.[NH4+]
reactant | 4-vinylbenzyl chloride | 0.25 mol, 43 g | C(=C)C1=CC=C(CCl)C=C1 | C9H9Cl
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 4-vinylbenzyl thiocyanate | 26 g, yield 52% | C(=C)C1=CC=C(CSC#N)C=C1 | C10H9NS
